=========================================================================================================

[ZXMD63C03X]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=02JUN2010
*VERSION=1
*PIN_ORDER         Sn1, Gn1, Sn2, Gn2, Dn2, Dn2, Dn1, Dn1
*
.SUBCKT ZXMD63C03X 1 2 3 4 5 6 7 8
*Device1
M11 13 12 11 11 Mmod11
M12 13 12 11 11 Mmod12
R11 12 2 5
R12 12 11 2E9
R13 13 14 Rmod11 0.065
R14 11 15 Rmod11 0.012
R15 14 15 300E6
C11 12 11 269E-12
C12 12 14 33E-12 
C13 16 17 300E-12
C14 18 11 365E-12
D11 15 14 Dmod11
S11 12 17 13 12 Smod11
S12 17 19 13 12 Smod12
S13 19 18 12 11 Smod13
S14 18 12 12 11 Smod14
E11 19 11 12 11 1
E12 16 11 14 11 1
L11 15 1 1E-9
L12 14 20 1E-9
R16 20 7 1E-3
R17 20 8 1E-3
* Device2
M21 23 22 21 21 Mmod21
R21 22 4 18
R22 23 21 300E6
R25 21 22 2E9
C21 22 21 450E-12
C22 23 22 35E-12
D21 23 21 Dmod21
L21 21 3 1E-9
L22 23 24 1E-9
R23 24 5 1E-3
R24 24 6 1E-3
*
.MODEL Mmod11 NMOS VTO=2.2 IS=1E-15 KP=5 CBD=170E-12 LAMBDA=4.9E-3
.MODEL Mmod12 NMOS VTO=1.8 IS=1E-15 KP=0.033
.MODEL Dmod11 D IS=2E-13 RS=0.075 BV=38 IBV=1E-6 TT=21e-9
.MODEL Smod11 VSWITCH RON=1e-2 ROFF=1e4  VON=-1.5 VOFF=1.5
.MODEL Smod12 VSWITCH RON=1e-2 ROFF=1e4  VON=1.5 VOFF=-1.5
.MODEL Smod13 VSWITCH RON=1e-2 ROFF=1e4  VON=-1.5 VOFF=-3.5
.MODEL Smod14 VSWITCH RON=1e-2 ROFF=1e4  VON=-3.5 VOFF=-1.5
.MODEL Rmod11 RES (TC1=3E-3 TC2=2E-5)
.MODEL Mmod21 PMOS VTO=-2.32 RS=0.09 RD=0.045 KP=4.2
+CBD=480E-12 LAMBDA=4.9E-3
.MODEL Dmod21 D IS=4E-13 N=1.04 IKF=295E-3 RS=94E-3
.ENDS
*
*$

=========================================================================================================

[DMC3021LSD]
*---------- DMC3021LSD Spice Model ----------

*NMOS
.SUBCKT DMC3021LSD_N 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.005805 
RS 30 3 0.001 
RG 20 2 1.32 
CGS 2 3 6.922E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 9.2E-010 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 1E+006  ETA = 0.0143  VTO = 2.028 
+ TOX = 6E-008  NSUB = 1E+017  KP = 21.95  KAPPA = 105  U0 = 200 
.MODEL DCGD D  CJO = 4.611E-010  VJ = 0.3568  M = 0.4267 
.MODEL DSUB D  IS = 2.567E-010  N = 1.254  RS = 0.01257  BV = 35  CJO = 8.267E-011  VJ = 0.4558  M = 0.5515 
.MODEL DLIM D  IS = 0.0001 
.ENDS


*PMOS
.SUBCKT DMC3021LSD_P 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.02496 
RS 30 3 0.001 
RG 20 2 11.1 
CGS 2 3 8.938E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 8.92E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 2.425E+005 KP = 27.53 ETA = 0.0001 
+ TOX = 6E-008 NSUB = 1E+017 KAPPA = 2.932 VTO = -1.9 
.MODEL DCGD D CJO = 4.013E-010 VJ = 0.3844 M = 0.3457 
.MODEL DSUB D IS = 2.245E-010 N = 1.343 RS = 0.01819 
+ BV = 35 CJO = 7.964E-011 VJ = 3.068 M = 0.9583 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3021LSD Spice Model v2.0 Last Revised 2012/8/6

=========================================================================================================

[DMC3032LSD]
*---------- DMC3032LSD Spice Model ----------

*NMOS

.SUBCKT DMC3032LSD_NMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01735 
RS 30 3 0.001 
RG 20 2 1.51 
CGS 2 3 3.898E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 4.95E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 4.62E+005 ETA = 0.0001 VTO = 1.5 
+ TOX = 6E-008 NSUB = 1E+017 KP = 16.9 KAPPA = 9.834 U0 = 400 
.MODEL DCGD D CJO = 2.661E-010 VJ = 0.2369  M = 0.408 
.MODEL DSUB D IS = 1.445E-010 N = 1.257 RS = 0.01296 BV = 35 
+ CJO = 4.795E-011 VJ = 0.3436 M = 0.5232 
.MODEL DLIM D IS = 0.0001 
.ENDS


*PMOS

.SUBCKT DMC3032LSD_PMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.02496 
RS 30 3 0.001 
RG 20 2 11.1 
CGS 2 3 8.938E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 8.92E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 2.425E+005 KP = 27.53 ETA = 0.0001 
+ TOX = 6E-008 NSUB = 1E+017 KAPPA = 2.932 VTO = -1.9 
.MODEL DCGD D CJO = 4.013E-010 VJ = 0.3844 M = 0.3457 
.MODEL DSUB D IS = 2.245E-010 N = 1.343 RS = 0.01819 
+ BV = 35 CJO = 7.964E-011 VJ = 3.068 M = 0.9583 
.MODEL DLIM D IS = 0.0001 
.ENDS
*Diodes DMC3032LSD Spice Model v2.0 Last Revised 2012/8/06

=========================================================================================================

[ZXMC3AMC]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=24JAN2011
*VERSION=1
*PIN_ORDER         
*1=S1
*2=G1
*3=S2
*4=G2
*5=D2
*6=D2
*7=D1
*8=D1
*
.SUBCKT ZXMC3AMC 1 2 3 4 5 6 7 8
*Dev1 N-channel
M11 11 12 13 13 Nmod1 L=1.16E-6 W=0.28
M12 13 12 13 11 Pmod1 L=1.3E-6 W=0.13
RG11 2 12 5
RIN11 12 13 1E12
RD11 11 15 Rmod1 0.08
RS11 13 14 1E-6
RL11 13 15 3E9
C11 12 13 8.5E-12
C12 12 15 3E-12
D11 13 15  Dmod1
RP11 15 7 1E-6
RP12 15 8 1E-6
LS11 14 1 11.2E-9
.MODEL Nmod1 NMOS (LEVEL=3 TOX=5.5E-8 NSUB=5E17 VTO=2.3
+KP=15E-5 RS=.045 NFS=2E11 KAPPA=0.06 UO=650 IS=1E-15 N=10)
.MODEL Pmod1 PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1.5E16
+TPG=-1 IS=1E-15 N=10)
.MODEL Dmod1 D (IS=6E-13 RS=.025 IKF=0.1 TRS1=1.5e-3
+CJO=85e-12  BV=33)
.MODEL Rmod1 RES (TC1=4.2e-3 TC2=1E-5)
*Dev2 P-channel
M21 21 22 23 23 Pmod2 L=1.2E-6 W=0.33
M22 23 22 23 21 Nmod2 L=1.4E-6 W=0.19
RG21 4 22 10
RIN21 22 23 1E9
RD21 21 25 Rmod2 0.05
RS21 23 24 1E-6
RL21 23 25 3E9
C21 22 23 8.5E-12
C22 22 25 5E-12
D21 25 23  Dmod2
RP21 25 5 1E-6
RP22 25 6 1E-6
LS21 24 3 1.2E-9
.MODEL Pmod2 PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1E17 
+VTO=-1.9 KP=2E-5 RS=.05 NFS=2E11 KAPPA=0.06 UO=650 IS=1E-15 N=10)
.MODEL Nmod2 NMOS (LEVEL=3 TOX=5.5E-8 NSUB=2E16 
+TPG=-1 IS=1E-15 N=10)
.MODEL Dmod2 D (IS=6E-13 RS=.025 IKF=0.1 TRS1=1.5e-3
+CJO=65e-12  BV=33)
.MODEL Rmod2 RES (TC1=5.5e-3 TC2=1.5E-5)
.ENDS
*
*$

=========================================================================================================

[DMC3021LK4]
*---------- DMC3021LK4 Spice Model ----------

*NMOS
.SUBCKT DMC3021LK4_N 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.005805 
RS 30 3 0.001 
RG 20 2 1.32 
CGS 2 3 6.922E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 9.2E-010 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 1E+006  ETA = 0.0143  VTO = 2.028 
+ TOX = 6E-008  NSUB = 1E+017  KP = 21.95  KAPPA = 105  U0 = 200 
.MODEL DCGD D  CJO = 4.611E-010  VJ = 0.3568  M = 0.4267 
.MODEL DSUB D  IS = 2.567E-010  N = 1.254  RS = 0.01257  BV = 35  CJO = 8.267E-011  VJ = 0.4558  M = 0.5515 
.MODEL DLIM D  IS = 0.0001 
.ENDS


*PMOS
.SUBCKT DMC3021LK4_P 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.02496 
RS 30 3 0.001 
RG 20 2 11.1 
CGS 2 3 8.938E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 8.92E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 2.425E+005 KP = 27.53 ETA = 0.0001 
+ TOX = 6E-008 NSUB = 1E+017 KAPPA = 2.932 VTO = -1.9 
.MODEL DCGD D CJO = 4.013E-010 VJ = 0.3844 M = 0.3457 
.MODEL DSUB D IS = 2.245E-010 N = 1.343 RS = 0.01819 
+ BV = 35 CJO = 7.964E-011 VJ = 3.068 M = 0.9583 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3021LK4 Spice Model v2.0 Last Revised 2012/8/6

=========================================================================================================

[DMG6602SVT]
*---------- DMG6602SVT Spice Model ----------

*NMOS
.SUBCKT DMG6602SVT_N 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.01593 
RS 30 3 0.001 
RG 20 2 1.4 
CGS 2 3 2.711E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 5.2E-010 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 5.378E+005  ETA = 0.001  VTO = 2.227 
+ TOX = 6E-008  NSUB = 1E+016  KP = 9.816  U0 = 400  KAPPA = 10 
.MODEL DCGD D  CJO = 2.317E-010  VJ = 0.2783  M = 0.4405 
.MODEL DSUB D  IS = 1E-015  N = 0.8731  RS = 0.04482  BV = 35  CJO = 1.086E-011  VJ = 0.4101  M = 0.9 
.MODEL DLIM D  IS = 0.0001 
.ENDS

*PMOS
.SUBCKT DMG6602SVT_P 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.04762 
RS 30 3 0.001 
RG 20 2 17 
CGS 2 3 3.334E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1  VFB 1 
CGD 13 14 3.9E-010 
R1 13 30 1 
D1 13 12  DLIM 
DDG 14 15  DCGD 
R2 12 15 1 
D2 30 15  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 400  VMAX = 7.77E+005  ETA = 0.001 
+ TOX = 6E-008  NSUB = 1E+016  KP = 7.61  KAPPA = 25  VTO = -1.533 
.MODEL DCGD D  CJO = 1.725E-010  VJ = 0.4474  M = 0.3707 
.MODEL DSUB D  IS = 1.119E-011  N = 1.169  RS = 0.06724  BV = 35  CJO = 2.406E-011  VJ = 0.1  M = 0.8 
.MODEL DLIM D  IS = 0.0001 
.ENDS

*Diodes DMG6602SVT Spice Model v1.0 Last Revised 2011/8/15

=========================================================================================================

[DMG6601LVT]
*DIODES_INC_SPICE_MODEL DMG6601LVT
*SIMULATOR=SIMETRIX
*ORIGIN=DZSL_DPG_SU
*DATE=31Mar2014
*VERSION=1

.SUBCKT DMG6601LVT G1 S2 G2 D2 S1 D1

*NMOS


M1 1 2 3 3  Nmod1 
RD D1 1 Rmod1 18E-3
RS 23 3 Rmod1 24E-3
RG G1 22 2
RIN G1 23 2E11
RDS D1 23 2E9
CGS 2 3 280E-12 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 840E-12 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 23 D1  DSUB
EL 2 22 1 3 0.003
LS S1 23 2E-9
RL S1 23 3
RLrun S1 S2 3E+9
.MODEL Nmod1 NMOS (LEVEL=3 VTO=1.31 TOX=4.5E-8 NSUB=1E+16 KP=50 NFS=1E+11 IS=1E-15 N=10)
.MODEL DCGD D (CJO = 72E-12  VJ = 0.45  M = 0.33 T_ABS=25)
.MODEL DSUB D (IS=1E-12 N=1.03 RS=0.022 BV=33 CJO=120E-12 VJ=0.45 M=0.33 TT=3E-9 TRS1=.0035)
.MODEL Rmod1 RES (TC1=1e-3 TC2=1E-6)


.SIMULATOR DEFAULT

*PMOS


M2 4 5 6 6  Pmod1
RD2 D2 4 Rmod2 40E-3
RS2 53 6 Rmod2 50E-3
RG2 G2 52 17
RIN2 G2 53 2E11
RDS2 D2 53 2E9
CGS2 5 6 460E-12 
EGD2 16 0 4 5 1
VFB2 18 0 0 
FFB2 4 5 VFB2 1 
CGD2 17 18 860E-12 
R12 17 0 1 
D12 16 17  DLIM 
DDG2 19 18  DCGD2 
R22 16 19 1 
D22 19 0  DLIM 
DSD2 D2 53 DSUB2
EL2 5 52 4 6 .003
RL2 S2 53 3
LS2 S2 53 2E-9
.MODEL Pmod1 PMOS (LEVEL=3 VTO=-1.2 TOX=4.5E-8 NSUB=1E+15 KP=45 NFS=1E+11 IS=1E-15 N=10)
.MODEL DCGD2 D (CJO = 100E-12  VJ = 0.45  M = 0.33 T_ABS=25)
.MODEL DSUB2 D (IS=.14E-12 N=1.02 RS=0.033 BV=33 CJO=94E-12 VJ=.45 M=0.33 TT=3E-9 TRS1=.002)
.MODEL Rmod2 RES (TC1=2.5e-3 TC2=1E-6)





*common model for PMOS and NMOS

.MODEL DLIM D (IS=100U N=1 T_ABS=25)

.ENDS


*                     (c)  2014 Diodes Inc
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL


=========================================================================================================

[DMC3025LSD]
*---------- DMC3025LSD Spice Model ----------

*NMOS
.SUBCKT DMC3025LSD_NMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01437 
RS 30 3 0.001 
RG 20 2 1.84 
CGS 2 3 4.55E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 4.1E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 4.62E+005 ETA = 0.0001 VTO = 2.222 
+ TOX = 6E-008 NSUB = 1E+017 KP = 35.61 KAPPA = 1E-015 U0 = 400 
.MODEL DCGD D CJO = 2.222E-010 VJ = 0.2975 M = 0.3378 
.MODEL DSUB D IS = 2.278E-010 N = 1.242 RS = 0.007361 
+ BV = 35 CJO = 4.795E-011 VJ = 0.3436 M = 0.5232 
.MODEL DLIM D IS = 0.0001 
.ENDS


*PMOS

.SUBCKT DMC3025LSD_PMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01769 
RS 30 3 0.001 
RG 20 2 10.8 
CGS 2 3 5.834E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 3.85E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 4.441E-010 TOX = 6E-008 
+ NSUB = 1E+016 KP = 8.945 KAPPA = 11.93 VTO = -1.877 
.MODEL DCGD D CJO = 1.097E-010 VJ = 1 M = 0.24 
.MODEL DSUB D IS = 2.613E-010 N = 1.268 RS = 0.01102 BV = 50 
+ CJO = 1.637E-010 VJ = 0.753 M = 0.6004 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3025LSD Spice Model v1.0 Last Revised 2013/4/16

=========================================================================================================

[DMC31D5UDJ]
*---------- DMC31D5UDJ Spice Model ----------

*NMOS
.SUBCKT DMC31D5UDJ_NMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.7969 
RS 30 3 0.001 
RG 20 2 219 
CGS 2 3 2.124E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 6.5E-011 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 8E+005  ETA = 0  VTO = 0.7496 
+ TOX = 6E-008  NSUB = 1E+016  KP = 1.745  U0 = 400  KAPPA = 1 
.MODEL DCGD D  CJO = 1.072E-011  VJ = 0.111  M = 0.4766 
.MODEL DSUB D  IS = 8.906E-008  N = 1.859  RS = 0.9141  BV = 35  CJO = 1.64E-012  VJ = 0.1  M = 0.1 
.MODEL DLIM D  IS = 0.0001 
.ENDS


*PMOS
.SUBCKT DMC31D5UDJ_P 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 1.727 
RS 30 3 0.001 
RG 20 2 389 
CGS 2 3 2.041E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1  VFB 1 
CGD 13 14 5.3E-011 
R1 13 30 1 
D1 13 12  DLIM 
DDG 14 15  DCGD 
R2 12 15 1 
D2 30 15  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 400  VMAX = 1E+006  ETA = 0.001  
+ TOX = 6E-008  NSUB = 1E+016  KP = 0.5546  KAPPA = 49.86  VTO = -0.7516 
.MODEL DCGD D  CJO = 7.862E-012  VJ = 0.2  M = 0.3592 
.MODEL DSUB D  IS = 2.888E-005  N = 4.275  RS = 4.441E-010  BV = 35  CJO = 2.878E-012  VJ = 0.6  M = 0.2781 
.MODEL DLIM D  IS = 0.0001 
.ENDS

*Diodes DMC31D5UDJ Spice Model v1.0 Last Revised 2014/12/5


=========================================================================================================

[DMC3400SDW]
*---------- DMC3400SDW Spice Model ----------

*NMOS

.SUBCKT DMC3400SDW_N 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.08876 
RS 30 3 0.001 
RG 20 2 91.88 
CGS 2 3 5E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 8E-011 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 5.378E+005 ETA = 0.001 VTO = 1.728 
+ TOX = 6E-008 NSUB = 1E+016 KP = 1.286 U0 = 400 KAPPA = 10 
.MODEL DCGD D CJO = 2.92E-011 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 2.377E-010 N = 1.449 RS = 0.8337 BV = 30 CJO = 1.5E-011 VJ = 0.6427 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS


*PMOS

.SUBCKT DMC3400SDW_P 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.2004 
RS 30 3 0.001 
RG 20 2 240.1 
CGS 2 3 4.97E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 7.5E-011 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.8889 KAPPA = 19.32 VTO = -1.774 
.MODEL DCGD D CJO = 2.466E-011 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 2.247E-010 N = 1.538 RS = 0.6734 BV = 30 CJO = 2.286E-011 VJ = 0.6656 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3400SDW Spice Model v1.0 Last Revised 2015/8/27


=========================================================================================================

[DMC3730UFL3]
*---------- DMC3730UFL3 Spice Model ----------

*NMOS
.SUBCKT DMC3730UFL3 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.2286 
RS 30 3 0.001 
RG 20 2 1.08 
CGS 2 3 6E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 9E-011 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 5.378E+005 ETA = 0.001 VTO = 0.8442 
+ TOX = 6E-008 NSUB = 1E+016 KP = 6.177 U0 = 400 KAPPA = 10 
.MODEL DCGD D CJO = 3.263E-011 VJ = 0.6 M = 0.6 
.MODEL DSUB D IS = 1.909E-009 N = 1.3 RS = 0.4387 BV = 34 CJO = 1E-015 VJ = 0.6 M = 0.7823 
.MODEL DLIM D IS = 0.0001 
.ENDS

*PMOS
.SUBCKT DMC3730UFL3 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.4982 
RS 30 3 0.001 
RG 20 2 177.7 
CGS 2 3 8.153E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 6.5E-011 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 2.741 KAPPA = 19.32 VTO = -0.9343 
.MODEL DCGD D CJO = 2.569E-011 VJ = 0.6 M = 0.6165 
.MODEL DSUB D IS = 4.013E-007 N = 2.187 RS = 0.2665 BV = 38 CJO = 1.212E-011 VJ = 0.71 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3730UFL3 Spice Model v1.0M Last Revised 2016/4/1

=========================================================================================================

[DMC3025LNS]
*---------- DMC3025LNS Spice Model ----------

*NMOS

.SUBCKT DMC3025LNS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01437 
RS 30 3 0.001 
RG 20 2 1.84 
CGS 2 3 4.55E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 4.1E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 4.62E+005 ETA = 0.0001 VTO = 2.222 
+ TOX = 6E-008 NSUB = 1E+017 KP = 35.61 KAPPA = 1E-015 U0 = 400 
.MODEL DCGD D CJO = 2.222E-010 VJ = 0.2975 M = 0.3378 
.MODEL DSUB D IS = 2.278E-010 N = 1.242 RS = 0.007361 BV = 35 CJO = 4.795E-011 VJ = 0.3436 M = 0.5232 
.MODEL DLIM D IS = 0.0001 
.ENDS

*PMOS

.SUBCKT DMC3025LNS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01336 
RS 30 3 0.001 
RG 20 2 8.56 
CGS 2 3 1.2E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 6.5E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 18.68 KAPPA = 19.32 VTO = -1.634 
.MODEL DCGD D CJO = 2.5E-010 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 2.291E-010 N = 1.209 RS = 0.01908 BV = 34 CJO = 2.5E-010 VJ = 0.8 M = 0.6 TT = 5.17E-009 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3025LNS Spice Model v1.0M Last Revised 2016/9/7


=========================================================================================================

[DMC3025LDV]
*---------- DMC3025LDV Spice Model ----------

*NMOS

.SUBCKT DMC3025LDV 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01437 
RS 30 3 0.001 
RG 20 2 1.84 
CGS 2 3 4.55E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 4.1E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 4.62E+005 ETA = 0.0001 VTO = 2.222 
+ TOX = 6E-008 NSUB = 1E+017 KP = 35.61 KAPPA = 1E-015 U0 = 400 
.MODEL DCGD D CJO = 2.222E-010 VJ = 0.2975 M = 0.3378 
.MODEL DSUB D IS = 2.278E-010 N = 1.242 RS = 0.007361 BV = 35 CJO = 4.795E-011 VJ = 0.3436 M = 0.5232 
.MODEL DLIM D IS = 0.0001 
.ENDS

*PMOS

.SUBCKT DMC3025LDV 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01336 
RS 30 3 0.001 
RG 20 2 8.56 
CGS 2 3 1.2E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 6.5E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 18.68 KAPPA = 19.32 VTO = -1.634 
.MODEL DCGD D CJO = 2.5E-010 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 2.291E-010 N = 1.209 RS = 0.01908 BV = 34 CJO = 2.5E-010 VJ = 0.8 M = 0.6 TT = 5.17E-009 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3025LDV Spice Model v1.0M Last Revised 2016/9/7


=========================================================================================================

[DMC3016LNS]
*---------- DMC3016LNS Spice Model ----------

*NMOS

.SUBCKT DMC3016LNS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.007058 
RS 30 3 0.001 
RG 20 2 2.94 
CGS 2 3 1.348E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 1E-009 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.001 VTO = 2.222 
+ TOX = 6E-008 NSUB = 1E+016 KP = 121.1 U0 = 400 KAPPA = 1E-015 
.MODEL DCGD D CJO = 3.779E-010 VJ = 0.6 M = 0.4637 
.MODEL DSUB D IS = 2.322E-010 N = 1.242 RS = 0.002024 BV = 45 CJO = 1.63E-010 VJ = 0.7 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS

*PMOS

.SUBCKT DMC3016LNS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01336 
RS 30 3 0.001 
RG 20 2 8.56 
CGS 2 3 1.2E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 6.5E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 18.68 KAPPA = 19.32 VTO = -1.634 
.MODEL DCGD D CJO = 2.5E-010 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 2.291E-010 N = 1.209 RS = 0.01908 BV = 34 CJO = 2.5E-010 VJ = 0.8 M = 0.6 TT = 5.17E-009 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3016LNS Spice Model v1.0M Last Revised 2016/9/7


=========================================================================================================

[DMC3016LDV]
*---------- DMC3016LDV Spice Model ----------

*NMOS

.SUBCKT DMC3016LDV 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.007058 
RS 30 3 0.001 
RG 20 2 2.94 
CGS 2 3 1.348E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 1E-009 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.001 VTO = 2.222 
+ TOX = 6E-008 NSUB = 1E+016 KP = 121.1 U0 = 400 KAPPA = 1E-015 
.MODEL DCGD D CJO = 3.779E-010 VJ = 0.6 M = 0.4637 
.MODEL DSUB D IS = 2.322E-010 N = 1.242 RS = 0.002024 BV = 45 CJO = 1.63E-010 VJ = 0.7 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS

*PMOS

.SUBCKT DMC3016LDV 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01336 
RS 30 3 0.001 
RG 20 2 8.56 
CGS 2 3 1.2E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 6.5E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 18.68 KAPPA = 19.32 VTO = -1.634 
.MODEL DCGD D CJO = 2.5E-010 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 2.291E-010 N = 1.209 RS = 0.01908 BV = 34 CJO = 2.5E-010 VJ = 0.8 M = 0.6 TT = 5.17E-009 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMC3016LDV Spice Model v1.0M Last Revised 2016/9/7


=========================================================================================================